US06107301
N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-acetyl-6-methylpyrimidinamine
A solution of N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-carboxy-6-methylpyrimidinamine (3.7 g, 9.8 mmol) in anhydrous THF (25 mL) was cooled with stirring to 31 78° C. under a nitrogen atmosphere. A solution of methyl lithium in ether (1.4M, 7 mL, 9.8 mmol) was added dropwise and the reaction mixture was stirred at -78° C. for 1 h. The CeCl3 suspension was transferred via cannula into the reaction mixture and stirring at -78° C. was continued for 5 h. A solution of methyl lithium in ether (1.4M, 7 mL, 9.8 mmol) was added dropwise and the reaction mixture was then warmed gradually to room temperature over 16 h. After cooling the reaction mixture to -78° C., the reaction was quenched with a 1N HCl solution and warmed to room temperature. The resulting mixture was extracted three times with ethyl acetate. The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo to give an orange yellow oil. Column chromatography (ethyl acetate:hexanes::1:4) afforded the title product as an oil (2.5 g, 68% yield, Rf 0.5): NMR (CDCl3, 300 MHz): 7.55 (d, 1H, J=1), 7.25-7.15 (m, 2H), 6.95 (s, 1H), 4.30-4.10 (m, 1H), 3.90-3.70 (m, 1H), 3.00-2.85 (m, 1H), 2.80-2.05 (m, 6H), 1.35-1.20 (m, 9H); CI-HRMS: Calcd (C18H22BrN3O): 376.1024 (M+H), Found: 376.1042.

reactant | N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-carboxy-6-methylpyrimidinamine | 9.8 mmol, 3.7 g | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)C(=O)O)C)CC | C17H20BrN3O2
reactant | methyl lithium | C[Li]
reactant | ether | 9.8 mmol, 1.4M, 7 mL | CCOCC | C4H10O
reactant | ether | 9.8 mmol, 1.4M, 7 mL | CCOCC | C4H10O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-acetyl-6-methylpyrimidinamine | 2.5 g, 68% yield | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)C(C)=O)C)CC | C18H22BrN3O
